US07767704B2
Ethyl 4-({[(3-fluoro-4-methylphenyl)amino]carbonyl}amino)-1-methyl-1H-imidazole-2-carboxylate
1.30 g (3.84 mmol) of ethyl 4-amino-1-methyl-1H-imidazole-2-carboxylate (synthesis analogous to Example 4A, stage 3, or else according to Tetrahedron Lett. 2003, 44, 1607 and literature cited therein) are mixed in 50 ml of THF with 1.16 g (7.68 mmol) of 3-fluoro-4-methylphenyl isocyanate under argon and stirred at room temperature overnight. The reaction mixture is filtered, and the filtrate is concentrated in vacuo and purified by preparative HPLC. The residue from filtration affords together with the product obtained after the HPLC purification 715 mg of product.

reactant | ethyl 4-amino-1-methyl-1H-imidazole-2-carboxylate | 3.84 mmol, 1.30 g | NC=1N=C(N(C1)C)C(=O)OCC | C7H11N3O2
reactant | 3-fluoro-4-methylphenyl isocyanate | 7.68 mmol, 1.16 g | FC=1C=C(C=CC1C)N=C=O | C8H6FNO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Ethyl 4-({[(3-fluoro-4-methylphenyl)amino]carbonyl}amino)-1-methyl-1H-imidazole-2-carboxylate | FC=1C=C(C=CC1C)NC(=O)NC=1N=C(N(C1)C)C(=O)OCC | C15H17FN4O3
